US04784988
Condensation with arginine and BOC-deprotection. The Gly-resin is suspended in 200 ml of methylene chloride and treated with a triple-molar quantity respect to the glycine of the second amino acid (first amino acid of the sequence desired), adding a solution of 9.85 g (23 mmol) of BOC-Nω -tosyl-L-arginine in 60 ml of DMF:CH2Cl2 1:1. After 10 minutes under agitation, 4.76 g (23 mmol) of DCCD dissolved in 30 ml of methylene chloride are added and left under agitation at room temperature for 20 hours. The resin is then filtered and washed with CH2Cl2 and with ethanol, then vacuum-dried obtaining 12.3 g of BOC-Nω -tosyl-L-arginine-glycine-resin which, when controlling with ninhydrin, confirms the absence of free amine groups.

reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | BOC-Nω -tosyl-L-arginine | 23 mmol, 9.85 g | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O | C18H28N4O6S
reactant | DCCD | 23 mmol, 4.76 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DMF CH2Cl2 | 60 ml | CN(C)C=O.C(Cl)Cl
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | BOC-Nω -tosyl-L-arginine glycine | 12.3 g | C(=O)(OC(C)(C)C)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O.NCC(=O)O | InChI=1S/C18H28N4O6S.C2H5NO2/c1-12-7-9-13(10-8-12)29(26,27)22-16(19)20-11-5-6-14(15(23)24)21-17(25)28-18(2,3)4;3-1-2(4)5/h7-10,14H,5-6,11H2,1-4H3,(H,21,25)(H,23,24)(H3,19,20,22);1,3H2,(H,4,5)/t14-;/m0./s1
